US06734302B2
[4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2-hydroxy-propyl)-piperazin-1-yl]-methanone
The compound was prepared by the treatment of [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone (example 10 g) with propylene oxide in methanol for 7 h at 45° C. in a sealed tube. HR-MS (ES, m/z) calculated for C33H38N4O4Cl2[(M+H)+]625.2343, observed 625.2350.

reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 10 g | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)OC)OC(C)C | C30H32Cl2N4O3
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | methanol | CO | CH4O
product | [4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2-hydroxy-propyl)-piperazin-1-yl]-methanone | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(C)O)C1=C(C=C(C=C1)OC)OC(C)C | C33H38Cl2N4O4
